US07060827B2
A mixture of N4-(3-aminophenyl)-2-chloro-5-fluoro-4-pyrimidineamine (10 mg, 0.06 mmol) and 2-methoxycarbonyl-5-aminobenzofuran (36 mg, 0.18 mmol) in dry MeOH (0.5 ml) was refluxed for 2 days (100° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3:Acetone, 9:1) to give N4-(3-aminophenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofurane-5-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.24 (s, 1H), 7.96 (dd, 1H, J=1.7, 3.5 Hz), 7.46–7.59 (m, 3H), 6.93–6.99 (m, 2H), 6.84 (d, 1H, J=8.2 Hz), 6.35 (m, 1H), 3.84 (s, 3H); LCMS purity: 97.8%; MS (ES) m/e 394.02 (M+, 70).

reactant | N4-(3-aminophenyl)-2-chloro-5-fluoro-4-pyrimidineamine | 0.06 mmol, 10 mg | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)Cl | C10H8ClFN4
reactant | 2-methoxycarbonyl-5-aminobenzofuran | 0.18 mmol, 36 mg | COC(=O)C=1OC2=C(C1)C=C(C=C2)N | C10H9NO3
solvent | MeOH | 0.5 ml | CO | CH4O
product | N4-(3-aminophenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofurane-5-yl)-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C20H16FN5O3
